### PR TITLE
feat: two inequivalent absolute values have a `< 1` and `> 1` value

### PR DESCRIPTION
**Pull request by smmercuri**
- Two absolute values `v` and `w` are equivalent if and only if `v x < 1` exactly when `w x < 1`
- Two inequivalent absolute values `v` and `w` have a point `x` at which `1 < v x` and `w x < 1`
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 1]
```diff
@@ -365,6 +365,71 @@ lemma IsNontrivial.exists_abv_lt_one {F S : Type*} [Field F] [LinearOrderedField
...
+  simp [hv]
+
+theorem isNontrivial_iff_exists_abv_one_lt {F S : Type*} [Field F] [LinearOrderedField S]
+    {v : AbsoluteValue F S} :
+    v.IsNontrivial ↔ ∃ x, 1 < v x := by
+  refine ⟨fun h => h.exists_abv_gt_one, fun ⟨x, hx⟩ => ?_⟩
+  refine ⟨x⁻¹, ?_, ?_⟩
+  · simp only [ne_eq, inv_eq_zero]; exact ne_zero_of_one_lt hx
+  · simp only [map_inv₀, ne_eq, inv_eq_one]
+    exact ne_of_gt hx
```
Comment (Paul-Lez) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:385]: Minigolf: 
```suggestion
theorem isNontrivial_iff_exists_abv_one_lt {F S : Type*} [Field F] [LinearOrderedField S]
    {v : AbsoluteValue F S} :
    v.IsNontrivial ↔ ∃ x, 1 < v x := by
  refine ⟨fun h => h.exists_abv_gt_one, fun ⟨x, hx⟩ => ⟨x⁻¹, ?_, ?_⟩⟩
  · simp only [ne_eq, inv_eq_zero]; exact ne_zero_of_one_lt hx
  · simpa only [map_inv₀, ne_eq, inv_eq_one] using ne_of_gt hx
```

Comment (smmercuri) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean]: Thanks!

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 2]
```diff
@@ -365,6 +365,69 @@ lemma IsNontrivial.exists_abv_lt_one {F S : Type*} [Field F] [LinearOrderedField
...
+
+theorem eq_one_iff_of_lt_one_iff (h : ∀ x, v x < 1 ↔ w x < 1) (x : F) : v x = 1 ↔ w x = 1 :=
+  ⟨fun hv => eq_one_of_lt_one_iff h hv, fun hw => eq_one_of_lt_one_iff (fun _ => (h _).symm) hw⟩
+
+variable (w)
+
+theorem pos_of_pos {a : F} (hv : 0 < v a) : 0 < w a := by
+  rwa [AbsoluteValue.pos_iff] at hv ⊢
+
+variable {R S : Type*} [OrderedRing S] [Semiring R] (v : AbsoluteValue R S) [IsDomain S]
```
Comment (Paul-Lez) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:419]: Can this variable declaration be combined with the one below? (maybe moving some of the typeclass assumptions to the statements)

File: Mathlib/Analysis/AbsoluteValue/Equivalence.lean [hunk 3]
```diff
@@ -59,4 +61,117 @@ lemma eq_trivial_of_isEquiv_trivial [DecidablePred fun x : R ↦ x = 0] [NoZeroD
...
+    · by_cases h₁ : v x = 1
+      · rw [h₁, (eq_one_iff_of_lt_one_iff h x).1 h₁, one_rpow]
+      · by_cases h₂ : 0 < v x ∧ v x < 1
+        · rw [← inv_inj, ← map_inv₀ v, ← hsuff _ (map_inv₀ v _ ▸ one_lt_inv_iff₀.2 h₂), map_inv₀,
+            inv_rpow (w.nonneg _)]
+        · rw [← one_lt_inv_iff₀, ← map_inv₀, not_lt] at h₂
+          rw [← ne_eq, ← inv_ne_one, ← map_inv₀] at h₁
+          exact hsuff _ <| (inv_lt_one_iff.1 <| lt_of_le_of_ne h₂ h₁).resolve_left
+            ((map_ne_zero v).1 h₀)
+  exact exists_rpow_of_one_lt hv h
```
Comment (Paul-Lez) [inline Mathlib/Analysis/AbsoluteValue/Equivalence.lean:152]:
```suggestion
  refine ⟨fun ⟨t, ht, h⟩ x => h ▸ (Real.rpow_lt_one_iff' (w.nonneg x) ht), fun h => ?_⟩
  obtain ⟨t, ht, hsuff⟩ := exists_rpow_of_one_lt hv h
  refine ⟨t, ht, funext fun x => ?_⟩
  by_cases h₀ : v x = 0
  · rw [(map_eq_zero v).1 h₀, map_zero, map_zero, zero_rpow (by linarith)]
  · by_cases h₁ : v x = 1
    · rw [h₁, (eq_one_iff_of_lt_one_iff h x).1 h₁, one_rpow]
    · by_cases h₂ : 0 < v x ∧ v x < 1
      · rw [← inv_inj, ← map_inv₀ v, ← hsuff _ (map_inv₀ v _ ▸ one_lt_inv_iff₀.2 h₂), map_inv₀,
          inv_rpow (w.nonneg _)]
      · rw [← one_lt_inv_iff₀, ← map_inv₀, not_lt] at h₂
        rw [← ne_eq, ← inv_ne_one, ← map_inv₀] at h₁
        exact hsuff _ <| (inv_lt_one_iff.1 <| lt_of_le_of_ne h₂ h₁).resolve_left
          ((map_ne_zero v).1 h₀)
```

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean]: I think it makes sense in this case to move them entirely to the statement

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 4]
```diff
@@ -351,6 +351,17 @@ lemma not_isNontrivial_apply {v : AbsoluteValue R S} (hv : ¬ v.IsNontrivial) {x
     v x = 1 :=
   v.not_isNontrivial_iff.mp hv _ hx
 
+omit [IsOrderedRing S] in
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:354]: I am not really sure that these two lemmas are needed: their proofs are one-liner, and it is unclear to me when to stop...

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 5]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
   rw [map_inv₀]
   exact (inv_lt_one₀ <| v.pos hy₀).mpr hy
 
+theorem inv_pos {x : R} (h : 0 < v x) : 0 < v x⁻¹ := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:387]:
```suggestion
theorem inv_abv_pos {x : R} (h : 0 < v x) : 0 < v x⁻¹ := by
```

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 6]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
...
+  rwa [map_inv₀, _root_.inv_pos]
+
+omit [ExistsAddOfLE S] in
+theorem ne_zero_of_one_lt {x : R} (hv : 1 < v x) : x ≠ 0 := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:391]:
```suggestion
theorem ne_zero_of_abv_one_lt {x : R} (hv : 1 < v x) : x ≠ 0 := by
```

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 7]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
...
+  simp [hv]
+
+theorem isNontrivial_iff_exists_abv_one_lt :
+    v.IsNontrivial ↔ ∃ x, 1 < v x := by
+  refine ⟨fun h => h.exists_abv_gt_one, fun ⟨x, hx⟩ => ⟨x⁻¹, ?_, ?_⟩⟩
+  · simpa only [ne_eq, inv_eq_zero] using ne_zero_of_one_lt hx
+  · simpa only [map_inv₀, ne_eq, inv_eq_one] using ne_of_gt hx
+
+omit [ExistsAddOfLE S] [IsStrictOrderedRing S] in
+theorem nonpos_iff {x : R} : v x ≤ 0 ↔ v x = 0 := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:402]:
```suggestion
theorem abv_nonpos_iff {x : R} : v x ≤ 0 ↔ v x = 0 := by
```

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 8]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
...
+  simp [le_antisymm_iff, v.nonneg _]
+
+theorem inv_lt_one_iff {x : R} : v x⁻¹ < 1 ↔ x = 0 ∨ 1 < v x := by
+  simp only [map_inv₀, inv_lt_one_iff₀, nonpos_iff, map_eq_zero]
+
+theorem mul_one_div_lt_iff {y : R} (x : R) (h : 0 < v y) : v (x * (1 / y)) < 1 ↔ v x < v y := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:408]: I do not understand this naming, but more importantly I feel that this and the following lemma are too specialized (and with an easy `rw` proof) to deserve to be added to the library.

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 9]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
...
+  rw [map_mul, one_div, map_inv₀, mul_inv_lt_iff₀ h, one_mul]
+
+theorem mul_one_div_pow_lt_iff {n : ℕ} {y : R} (x : R) (h : 0 < v y) :
+    v (x * (1 / y ^ n)) < 1 ↔ v x < v y ^ n :=
+  map_pow v _ _ ▸ mul_one_div_lt_iff x (map_pow v _ _ ▸ pow_pos h n)
+
+variable {w : AbsoluteValue R S}
+
+theorem one_lt_of_lt_one_imp  (h : ∀ x, v x < 1 → w x < 1) {x : R} (hv : 1 < v x) : 1 < w x :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:417]: This lemma and the following one are of the form `∀ x, P x → ∀ x, P x` no? If this is the case they should not be recorded, but perhaps I am overlooking something.

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 10]
```diff
@@ -373,6 +384,58 @@ lemma IsNontrivial.exists_abv_lt_one (h : v.IsNontrivial) : ∃ x ≠ 0, v x < 1
...
+  | inl hl => rw [← hl]
+  | inr hr => rw [← one_lt_iff_of_lt_one_iff h] at hr; absurd hv; exact ne_of_gt hr
+
+theorem eq_one_iff_of_lt_one_iff (h : ∀ x, v x < 1 ↔ w x < 1) (x : R) : v x = 1 ↔ w x = 1 :=
+  ⟨fun hv => eq_one_of_lt_one_iff h hv, fun hw => eq_one_of_lt_one_iff (fun _ => (h _).symm) hw⟩
+
+variable (w)
+
+omit [ExistsAddOfLE S] [IsStrictOrderedRing S] in
+theorem pos_of_pos {a : R} (hv : 0 < v a) : 0 < w a := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:436]:
```suggestion
theorem abv_pos_of_abv_pos {a : R} (hv : 0 < v a) : 0 < w a := by
```

**Comment by smmercuri** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27964

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean (hunk 9 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:417]: I don't think it is of that form because it is `_ < 1` in the hypothesis `h` while `1 < _` in the conclusion
